* /home/ash98/downloads/esim-1.1.3/src/subcircuitlibrary/3_and/3_and.cir

* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad3_ d_and
* u3  net-_u2-pad3_ net-_u3-pad2_ net-_u1-pad4_ d_and
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ port
* u4  net-_u1-pad3_ net-_u1-pad3_ net-_u3-pad2_ d_and
a1 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u2-pad3_ u2
a2 [net-_u2-pad3_ net-_u3-pad2_ ] net-_u1-pad4_ u3
a3 [net-_u1-pad3_ net-_u1-pad3_ ] net-_u3-pad2_ u4
* Schematic Name: d_and, NgSpice Name: d_and
.model u2 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u3 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u4 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
