* /home/saurabh/desktop/esim/examples/rc/rc.cir

c1  out gnd 1u
r1  in out 1k
* u1  out plot_log
* u2  out plot_phase
v1 in gnd  ac 5 0
.ac dec 100000 0.1Hz 10KHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot 20*log(out/in)
plot phase(out)
.endc
.end
