* /home/ash98/Downloads/eSim-1.1.3/src/SubcircuitLibrary/74LS00/74LS00.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Tue Jan 14 15:24:33 2020

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U5  Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U5-Pad3_ d_and		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ adc_bridge_2		
U9  Net-_U5-Pad3_ Net-_R1-Pad1_ dac_bridge_1		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R1  Net-_R1-Pad1_ Net-_Q1-Pad2_ 1k		
R5  Net-_R5-Pad1_ Net-_Q1-Pad1_ 100		
U6  Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U10-Pad1_ d_and		
U2  Net-_U13-Pad4_ Net-_U13-Pad5_ Net-_U2-Pad3_ Net-_U2-Pad4_ adc_bridge_2		
U10  Net-_U10-Pad1_ Net-_R2-Pad1_ dac_bridge_1		
Q2  Net-_Q2-Pad1_ Net-_Q2-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R2  Net-_R2-Pad1_ Net-_Q2-Pad2_ 1k		
R6  Net-_R5-Pad1_ Net-_Q2-Pad1_ 100		
U7  Net-_U3-Pad3_ Net-_U3-Pad4_ Net-_U11-Pad1_ d_and		
U3  Net-_U13-Pad10_ Net-_U13-Pad9_ Net-_U3-Pad3_ Net-_U3-Pad4_ adc_bridge_2		
U11  Net-_U11-Pad1_ Net-_R3-Pad1_ dac_bridge_1		
Q3  Net-_Q3-Pad1_ Net-_Q3-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R3  Net-_R3-Pad1_ Net-_Q3-Pad2_ 1k		
R7  Net-_R5-Pad1_ Net-_Q3-Pad1_ 100		
U8  Net-_U4-Pad3_ Net-_U4-Pad4_ Net-_U12-Pad1_ d_and		
U4  Net-_U13-Pad13_ Net-_U13-Pad12_ Net-_U4-Pad3_ Net-_U4-Pad4_ adc_bridge_2		
U12  Net-_U12-Pad1_ Net-_R4-Pad1_ dac_bridge_1		
Q4  Net-_Q4-Pad1_ Net-_Q4-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R4  Net-_R4-Pad1_ Net-_Q4-Pad2_ 1k		
R8  Net-_R5-Pad1_ Net-_Q4-Pad1_ 100		
U13  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_Q1-Pad1_ Net-_U13-Pad4_ Net-_U13-Pad5_ Net-_Q2-Pad1_ Net-_Q1-Pad3_ Net-_Q3-Pad1_ Net-_U13-Pad9_ Net-_U13-Pad10_ Net-_Q4-Pad1_ Net-_U13-Pad12_ Net-_U13-Pad13_ Net-_R5-Pad1_ PORT		

.end
