* /home/ash98/Downloads/eSim-1.1.3/src/SubcircuitLibrary/74LS32/74LS32.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Wed Jan 15 13:14:39 2020

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad10_ Net-_U1-Pad9_ Net-_U1-Pad13_ Net-_U1-Pad12_ Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U2-Pad11_ Net-_U2-Pad12_ Net-_U2-Pad13_ Net-_U2-Pad14_ Net-_U2-Pad15_ Net-_U2-Pad16_ adc_bridge_8		
U11  Net-_U11-Pad1_ Net-_U11-Pad2_ Net-_U11-Pad3_ Net-_U11-Pad4_ Net-_R1-Pad1_ Net-_R2-Pad1_ Net-_R3-Pad1_ Net-_R4-Pad1_ dac_bridge_4		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_Q1-Pad1_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_Q2-Pad1_ Net-_Q1-Pad3_ Net-_Q3-Pad1_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_Q4-Pad1_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_R5-Pad1_ PORT		
Q3  Net-_Q3-Pad1_ Net-_Q3-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R3  Net-_R3-Pad1_ Net-_Q3-Pad2_ 1k		
R7  Net-_R5-Pad1_ Net-_Q3-Pad1_ 100		
Q4  Net-_Q4-Pad1_ Net-_Q4-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R4  Net-_R4-Pad1_ Net-_Q4-Pad2_ 1k		
R8  Net-_R5-Pad1_ Net-_Q4-Pad1_ 100		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R1  Net-_R1-Pad1_ Net-_Q1-Pad2_ 1k		
R5  Net-_R5-Pad1_ Net-_Q1-Pad1_ 100		
Q2  Net-_Q2-Pad1_ Net-_Q2-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
R2  Net-_R2-Pad1_ Net-_Q2-Pad2_ 1k		
R6  Net-_R5-Pad1_ Net-_Q2-Pad1_ 100		
U3  Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U11-Pad1_ d_nor		
U4  Net-_U2-Pad11_ Net-_U2-Pad12_ Net-_U11-Pad2_ d_nor		
U5  Net-_U2-Pad13_ Net-_U2-Pad14_ Net-_U11-Pad3_ d_nor		
U6  Net-_U2-Pad15_ Net-_U2-Pad16_ Net-_U11-Pad4_ d_nor		

.end
